Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Palpitations
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with history of iron deficiency anemia and asthma presented 
to her outpatient PCP's office at ___ for routine 
physical examination and was found to have a rapid heart rate. 
EKG was done in the office demonstrating atrial flutter with 
RVR, and pt was referred to the ___ ED for further management. 
Pt reports that she has been going through menopause with hot 
flashes recently, and over the past week she has been 
experiencing palpitations. She denies chest pain, asthma 
exacerbation, weight loss, diarrhea, or feeling anxious. She 
also denies any recent alcohol use, and states that she only 
drinks alcohol on occasion. She denies any history of thyroid 
disorder. She denies taking any medications currently.  
 
 In the ED intial vitals were: T 97.8, HR 180, BP 165/100, RR 16 
and SpO2 98% on RA.  
 Labs were notable for WBC 11.0, H/H 15.4/44.4, plts 219, Na 
142, K 3.0, Mg 1.9, BUN/Cr ___, and normal UA. Urine culture 
was obtained.  
 EKG ___ 17:29: Atrial flutter with VR 150  
 
 Patient was given Diltiazem IV 10mg, 15mg and then 20mg without 
appropriate rate control, so she was started on a diltiazem gtt 
at 15 mg/hr. Pt also received KCl 40mEq PO and KCl 40mEq/1L NS 
IV for hypokalemia to 3.0.  
 
 Vitals on transfer: 98.3 123 131/95 26 96% RA  
 On the floor, pt reports that she feels well and denies acute 
complaints.
 
Past Medical History:
PAST MEDICAL HISTORY:  
Iron Deficiency Anemia  
Asthma  
Seasonal allergies  
 
PAST SURGICAL HISTORY:  
Laparoscopy - tubal ligation  
Breast cyst excised, ___, at ___ with Dr. ___
 
___ History:
___
Family History:
Father - ___, DM  
Mother - ___, DM, Hypertension  
Paternal grandfather - Cancer, unknown type
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
========================= 
VS: 98.6 141/86 81 16 97% on RA, Wt 64.3 kg  
GENERAL: NAD  
HEENT: NCAT. Sclera anicteric.  
NECK: Supple with JVP flat.  
CARDIAC: RR, normal, S1 S2, no m/r/g  
LUNGS: CTAB  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No edema  
SKIN: No stasis dermatitis  
PULSES: Distal pulses palpable and symmetric 

DISCHARGE PHYSICAL EXAM:
========================
VS: 98.1 ___ 70-80s (on the floor; 150-180 in ED) 16 
97% on RA, 
Wt 64.3 kg 
I/O: MN: ___ 
GENERAL: Well appearing, sitting comfortably in bed, NAD 
HEENT: NCAT, EOMI, Sclera anicteric.  
NECK: Supple with JVP flat. No thyromegaly appeciated 
CARDIAC: RR, normal, S1 S2, no m/r/g  
LUNGS: CTAB, no r/r/w  
ABDOMEN: Soft, NTND. No HSM or tenderness. +BS 
EXTREMITIES: Warm, dry and well perfused. No edema.  
SKIN: No stasis dermatitis
NEURO: CN II-XII grossly intact, sensation intact, moving all 
extremities with purpose. Non focal exam  
PULSES: Distal pulses palpable and symmetric 
 
Pertinent Results:
ADMISSION LABS:
================
___ 05:30PM BLOOD WBC-11.0* RBC-5.16 Hgb-15.4# Hct-44.4# 
MCV-86# MCH-29.8# MCHC-34.7 RDW-12.4 RDWSD-38.5 Plt ___
___ 05:30PM BLOOD Neuts-68.1 ___ Monos-6.4 Eos-0.6* 
Baso-0.4 Im ___ AbsNeut-7.47* AbsLymp-2.64 AbsMono-0.70 
AbsEos-0.07 AbsBaso-0.04
___ 05:30PM BLOOD Glucose-136* UreaN-20 Creat-0.9 Na-142 
K-3.0* Cl-105 HCO3-22 AnGap-18
___ 05:30PM BLOOD Calcium-9.8 Phos-2.1* Mg-1.9
___ 06:10AM BLOOD %HbA1c-5.8 eAG-120
___ 05:30PM BLOOD TSH-1.5
___ 05:30PM BLOOD CK-MB-2 cTropnT-<0.01

MICRO:
=======
URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH FECAL
      CONTAMINATION. 

IMAGING:
========
CXR ___:
 1. Heart size is borderline.
2. Possible mild hyper inflation, though the diaphragms are not 
flattened.
3. Doubt but cannot entirely exclude a right apical 
pneumothorax.  If there is clinical concern for pneumothorax, 
then an additional frontal view obtained at end- expiration of 
the respiratory cycle could help for further assessment.
4. Otherwise, no acute pulmonary process identified.
5. Scoliosis noted.

DISCHARGE LABS:
================
___ 06:10AM BLOOD WBC-9.3 RBC-4.84 Hgb-14.4 Hct-42.3 MCV-87 
MCH-29.8 MCHC-34.0 RDW-12.7 RDWSD-40.3 Plt ___
___ 01:15PM BLOOD Glucose-135* UreaN-17 Creat-0.9 Na-140 
K-4.0 Cl-105 HCO3-22 AnGap-17
___ 01:15PM BLOOD Calcium-9.8 Phos-3.1 Mg-2.___ year old with history of iron deficiency anemia presenting 
with new atrial flutter and rapid ventricular response requiring 
diltiazem gtt for rate control.

New Atrial Flutter: The patient initially presented to PCP for 
routine health maintenance exam where she was found to have new 
atrial flutter with rapid ventricular response with HR in 
150-180s. Otherwise HD stable and patient denied symptoms at the 
time. Upon transfer to ___, the patient was given diltiazem 
10mg, then 15mg, then 20mg without response. She was started on 
a diltiazem gtt at which point she converted to sinus rhythm. 
Troponin negative, TSH normal, and patient had no evidence of 
infection. Labs were notable for hypokalemia of 3.0 (unclear 
etiology) which remained stable after repletion. It is unclear 
what triggered the patients atrial fibrillation. The patient 
remained in sinus rhythm throughout the rest of her hospital 
stay and was started on apixaban for anticoagulation for a 
CHADS2-vasc=2 (gender and undiagnosed hypertension) and 
metoprolol 25mg XL for rate control.

Hypokalemia: Unclear etiology as patient was not taking any 
medicaitons and denied any recent diarrhea, vomiting or poor PO 
intake. Renal transtubular potassium gradient was low suggestive 
of appropriate renal response and absence of potassium wasting 
by the kidney. Her level remained stable post-repletion and was 
4.0 upon discharge.

Hypertension: The patient was hypertensive to systolics of 160 
and therefore was initiated on irbesartan 150mg daily upon 
discharge in addition to the metoprolol succinate 25mg PO daily.

Transitional Issues:
=====================
- started on apixaban 5mg BID, metoprolol 25mg XL, and 
irbesartan 150mg
- needs TTE as outpatient to rule out valvular lesions
- should have chem panel checked in two weeks  

 
Medications on Admission:
None
 
Discharge Medications:
1. Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0
2. Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
3. irbesartan 150 mg oral DAILY 
RX *irbesartan 150 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Atrial fibrillation
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You came in from your primary care office after they saw that 
you had an abnormal heart rhythm called atrial fibrillation. 
While you were here your heart went back to a normal rhythm. 
However, atrial fibrillation can sometimes return, and this 
rhythm can increase your risk of stroke. Because of this we are 
recommending a blood thinner called apixaban, which you should 
take twice a day. Apixaban can be very expensive, so please call 
us at ___ if you have any issues with your insurance.

We are also starting you on a medication called metoprolol, 
which slows your heart rate in case you go back into the fast 
rhythm. In addition, your blood pressure here was high and so we 
are starting you on a blood pressure medication called 
irbesartan.

It was a pleasure taking care of you.
 
Followup Instructions:
___